datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C=CCc1ccccc1OCC(O)C[NH:10]C(C)C.Cc1cnc2c[n+:21]([H:20])cnc2n1>>C=CCc1ccccc1OCC(O)C[NH+:10](C(C)C)[H:20].Cc1cnc2c[n:21]cnc2n1 10=20;20,21=21",
"CN1C([O-])=NC(=O)c2c1nc[n:21]2[H:20].[S-]c1cccc2ccc[n:10]c12>>CN1C([O-])=NC(=O)c2c1nc[n-:21]2.[S-]c1cccc2ccc[n+:10]([H:20])c12 10=20;20,21=21",
"CC(C[NH:10]C)c1ccccc1.NCC(N)C[NH2+:21][H:20]>>CC(C[NH+:10](C)[H:20])c1ccccc1.NCC(N)C[NH2:21] 10=20;20,21=21",
"C[NH:10]CCO.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>C[NH+:10](CCO)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CNCC[NH:10]C.c1c[n+:21]([H:20])cc[nH+]1>>CNCC[NH+:10](C)[H:20].c1c[n:21]cc[nH+]1 10=20;20,21=21",
"Cc1ccc(S(=O)(=O)[N:21](CC[NH+](CC(=O)[O-])CC(=O)[O-])[H:20])cc1.c1ccc(-c2c[n-:10]c(-c3ccccc3)n2)cc1>>Cc1ccc(S(=O)(=O)[N-:21]CC[NH+](CC(=O)[O-])CC(=O)[O-])cc1.c1ccc(-c2c[n:10]([H:20])c(-c3ccccc3)n2)cc1 10=20;20,21=21",
"CC(C)c1ccc[n+:21]([H:20])c1.c1ccc2c(c1)Cc1ccc([NH2:10])cc1-2>>CC(C)c1ccc[n:21]c1.c1ccc2c(c1)Cc1ccc([NH2+:10][H:20])cc1-2 10=20;20,21=21",
"CC1CCCC/C1=[N:10]/CC(=O)[O-].CCc1c(-c2ccccc2)nn(C2CC[N+:21](C)([H:20])CC2)c1[O-]>>CC1CCCC/C1=[N+:10](/CC(=O)[O-])[H:20].CCc1c(-c2ccccc2)nn(C2CC[N:21](C)CC2)c1[O-] 10=20;20,21=21",
"C[Si](C)(CCCCl)CCCC(=O)[O-:10].c1cc2c(c([O:21][H:20])c1)CCCC2>>C[Si](C)(CCCCl)CCCC(=O)[O:10][H:20].c1cc2c(c([O-:21])c1)CCCC2 10=20;20,21=21",
"CC(C)(C)NCCCCCC[NH:10]C(C)(C)C.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC(C)(C)NCCCCCC[NH+:10](C(C)(C)C)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"COC1=CC([C:21](C)([N+](=O)[O-])[H:20])=CC=C1.[OH-:10]>>COC1=CC([C-:21](C)[N+](=O)[O-])=CC=C1.[OH:10][H:20] 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1cn2ccnc(OC)c2[n:10]1.Cc1ccc(OCC(=O)[O:21][H:20])cc1>>COc1cc(S(C)=O)ccc1-c1cn2ccnc(OC)c2[n+:10]1[H:20].Cc1ccc(OCC(=O)[O-:21])cc1 10=20;20,21=21",
"CC1=[N+:21]([H:20])CCCC1.CC[N:10](CC)CCCNc1ccnc2ccccc12>>CC1=[N:21]CCCC1.CC[N+:10](CC)(CCCNc1ccnc2ccccc12)[H:20] 10=20;20,21=21",
"Cc1cc(C)c[n+:21]([H:20])c1.[NH3+]CCCCCCNC(=S)[S-:10]>>Cc1cc(C)c[n:21]c1.[NH3+]CCCCCCNC(=S)[S:10][H:20] 10=20;20,21=21",
"CC(C)[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(Cl)C([N+](=O)[O-])=C2)[H:20])C=C1>>CC(C)[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(Cl)C([N+](=O)[O-])=C2)C=C1 10=20;20,21=21",
"CCC[NH:10]CC[S-].O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CCC[NH+:10](CC[S-])[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CC(=O)OCC1CC2CC[N:10]1CC2.COc1ccc([N:21](C(=S)c2ccccc2)[H:20])cc1>>CC(=O)OCC1CC2CC[N+:10]1([H:20])CC2.COc1ccc([N-:21]C(=S)c2ccccc2)cc1 10=20;20,21=21",
"C[NH:10]CC(O)c1ccccc1.O=C([O-])C[NH2+]CCc1nnn[n:21]1[H:20]>>C[NH+:10](CC(O)c1ccccc1)[H:20].O=C([O-])C[NH2+]CCc1nnn[n-:21]1 10=20;20,21=21",
"CCOC(=O)CC[N+:21](C)(C)[H:20].Cc1cccc(N)c1-c1c(C)cccc1[NH2:10]>>CCOC(=O)CC[N:21](C)C.Cc1cccc(N)c1-c1c(C)cccc1[NH2+:10][H:20] 10=20;20,21=21",
"CC(C[N+:21]1([H:20])CCCCC1)C(C#N)(c1ccccc1)c1ccccc1.Nc1nccc2c1[n:10]cn2CCOCP(=O)([O-])[O-]>>CC(C[N:21]1CCCCC1)C(C#N)(c1ccccc1)c1ccccc1.Nc1nccc2c1[n+:10]([H:20])cn2CCOCP(=O)([O-])[O-] 10=20;20,21=21",
"CCCP(=O)(CCC)[O:21][H:20].O[C@H]1CCC[C@@H]1[NH2:10]>>CCCP(=O)(CCC)[O-:21].O[C@H]1CCC[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
"N#CC(C#N)=C(C#N)[N:21](C1CCCCC1)[H:20].O=S1(=O)c2cccc3cccc(c23)[N-:10]1>>N#CC(C#N)=C(C#N)[N-:21]C1CCCCC1.O=S1(=O)c2cccc3cccc(c23)[N:10]1[H:20] 10=20;20,21=21",
"CN(C)C(N(C)C)=[NH:10].COCC[NH+:21](c1cccc(C)c1)[H:20]>>CN(C)C(N(C)C)=[NH+:10][H:20].COCC[NH:21]c1cccc(C)c1 10=20;20,21=21",
"CN(C)c1cccc2c(S(=O)(=O)NCC(=O)[O-:10])cccc12.O=C(NCC(=O)[O:21][H:20])c1cccc(O)c1O>>CN(C)c1cccc2c(S(=O)(=O)NCC(=O)[O:10][H:20])cccc12.O=C(NCC(=O)[O-:21])c1cccc(O)c1O 10=20;20,21=21",
"[H:20][NH2+:21]CCCCC.C[N+]1=CC=C(C=C1)[CH-:10]S(=O)(=O)C2=CC=CC=C2>>[H:20][CH:10](C1=CC=[N+](C=C1)C)S(=O)(=O)C2=CC=CC=C2.CCCCC[NH2:21] 10=20;20,21=21",
"CN(C)C(=O)C[S:21][H:20].C[NH2+]CC[NH:10]CC[NH3+]>>CN(C)C(=O)C[S-:21].C[NH2+]CC[NH+:10](CC[NH3+])[H:20] 10=20;20,21=21",
"O=[N+]([O-])c1cccc([Se](=O)[O:21][H:20])c1.[O-]c1ccc([O-:10])cc1Cl>>O=[N+]([O-])c1cccc([Se](=O)[O-:21])c1.[O-]c1ccc([O:10][H:20])cc1Cl 10=20;20,21=21",
"C[NH+]1CSCC1C(=O)[O-:10].Cc1ccc(C(=O)[O:21][H:20])cc1[N+](=O)[O-]>>C[NH+]1CSCC1C(=O)[O:10][H:20].Cc1ccc(C(=O)[O-:21])cc1[N+](=O)[O-] 10=20;20,21=21",
"NCCNCC[NH2:10].O=[N+]([O-])c1c[n+:21]([H:20])c([O-])[nH+]c1[O-]>>NCCNCC[NH2+:10][H:20].O=[N+]([O-])c1c[n:21]c([O-])[nH+]c1[O-] 10=20;20,21=21",
"CCCN(C)[N+:21](C)(CCC)[H:20].Cn1c[n:10]c2cc(N)ccc21>>CCCN(C)[N:21](C)CCC.Cn1c[n+:10]([H:20])c2cc(N)ccc21 10=20;20,21=21",
"CCCCN(C)[N+:21](C)(CCCC)[H:20].c1ccc2sc(/N=N/c3ccc([O-:10])c4ncccc34)nc2c1>>CCCCN(C)[N:21](C)CCCC.c1ccc2sc(/N=N/c3ccc([O:10][H:20])c4ncccc34)nc2c1 10=20;20,21=21",
"CC(C)c1csc(C(=O)[O:21][H:20])c1.CSc1ccc([NH2:10])cc1Cl>>CC(C)c1csc(C(=O)[O-:21])c1.CSc1ccc([NH2+:10][H:20])cc1Cl 10=20;20,21=21",
"C=CC(C)(C)[NH+:21](C(C)(C)CC)[H:20].Nc1cccc([O-:10])c1>>C=CC(C)(C)[NH:21]C(C)(C)CC.Nc1cccc([O:10][H:20])c1 10=20;20,21=21",
"Cc1cc(Nc2ccc([O-:10])cc2)c(C(C)C)cc1O.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cc(Nc2ccc([O:10][H:20])cc2)c(C(C)C)cc1O.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
